US07468457B2
d. Synthesis of 4-[3-Hydroxy-3-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoic Acid
In a similar manner to that of Example 1g, by reacting 950 mg (2.9 mmol) of 1-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)prop-2-yn-1-ol with 595 mg (2.4 mmol) of 4-iodobenzoic acid in the presence of 47 mg of copper iodide and 54 mg of bis(triphenylphosphine)dichloropalladium. The desired product is obtained in the form of white crystals (m=1 g; yield=81%; m.p.=207° C.).

reactant | 1-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)prop-2-yn-1-ol | 2.9 mmol, 950 mg | CC1(C=2C(=CC(=CC2C(CC1)(C)C)C(C#C)O)C1=CC=C(C=C1)C)C | C24H28O
reactant | 4-iodobenzoic acid | 2.4 mmol, 595 mg | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
catalyst | copper iodide | 47 mg | [Cu](I)I
catalyst | bis(triphenylphosphine)dichloropalladium | 54 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[3-Hydroxy-3-(5,5,8,8-tetramethyl-4-p-tolyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoic Acid | yield=81% | OC(C#CC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C(=C1)C1=CC=C(C=C1)C)(C)C)(C)C | C31H32O3
